US07595397B2
3-Phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine
100 mg of 1-(4-Bromo-benzyl)-3-phenyl-piperazine was combined with 136 mg of 2-(Trifluoromethyl)phenyl boronic acid, 17 mg of tetrakis(triphenylphosphine)palladium(0), 1.01 mL of 2M sodium carbonate solution, 2.7 mL toluene and 1.4 mL ethanol. The reaction mixture was heated in a sealed tube at 120° C. overnight in an oil bath. The reaction mixture was filtered through Celite and concentrated in vacuo. The residue was diluted with water and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by flash chromatography eluting in a 0-20% methylene chloride/methanol gradient. The product fractions were pooled and concentrated to afford 49.5 mg of product. ES MS (+) m/z 397

reactant | 1-(4-Bromo-benzyl)-3-phenyl-piperazine | 100 mg | BrC1=CC=C(CN2CC(NCC2)C2=CC=CC=C2)C=C1 | C17H19BrN2
reactant | 2-(Trifluoromethyl)phenyl boronic acid | 136 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M, 1.01 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 2.7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
product | 3-Phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine | 49.5 mg | C1(=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C24H23F3N2
